US08076336B2
N-[3-Acetyl-5-(pentafluorosulfanyl)phenyl]-2,2,2-trifluoro-N-methylacetamide
In a microwave insert, N-(3-acetyl-5-pentafluorosulfanylphenyl)-2,2,2-trifluoroacetamide (O3.075; 0.25 g) was dissolved in absolute dimethoxyethane (7.5 ml), powdered potassium carbonate was added and the mixture was admixed with iodomethane (80 μl). Subsequently, the mixture was heated in the microwave to 100° C. for 40 min. Once further N-(3-acetyl-5-pentafluorosulfanylphenyl)-2,2,2-trifluoroacetamide (4×250 mg) had been converted in the manner described, the five batches were worked up together, by decanting from potassium carbonate into 1 N hydrochloric acid with ice cooling. After repeatedly washing the potassium carbonate residue with dimethoxyethane, the aqueous phase was extracted five times with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. The residue was purified by means of preparative HPLC (met. A). The product-containing fractions were combined, freed of the acetonitrile and extracted five times with ethyl acetate. The combined extracts were dried over magnesium sulfate, filtered and concentrated. 1.03 g of the desired compound were obtained. LC-MS rt: 1.62 min [M+H]+: 372.0 (met. a)

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 80 μl | IC | CH3I
reactant | N-(3-acetyl-5-pentafluorosulfanylphenyl)-2,2,2-trifluoroacetamide | 0.25 g | C(C)(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)NC(C(F)(F)F)=O | C10H7F8NO2S
reactant | N-(3-acetyl-5-pentafluorosulfanylphenyl)-2,2,2-trifluoroacetamide | 250 mg | C(C)(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)NC(C(F)(F)F)=O | C10H7F8NO2S
solvent | dimethoxyethane | 7.5 ml | C(OC)COC | C4H10O2
product | N-[3-Acetyl-5-(pentafluorosulfanyl)phenyl]-2,2,2-trifluoro-N-methylacetamide | 1.03 g | C(C)(=O)C=1C=C(C=C(C1)S(F)(F)(F)(F)F)N(C(C(F)(F)F)=O)C | C11H9F8NO2S
